.title kicad schematic

* u7 net-_u1-pad16_ net-_u1-pad16_ net-_u4-pad2_ unconnected-_u7-pad4_ net-_u1-pad11_ net-_u1-pad12_ unconnected-_u7-pad7_ d_jkff
* u6 net-_u1-pad16_ net-_u1-pad16_ net-_u3-pad2_ unconnected-_u6-pad4_ net-_u1-pad11_ net-_u1-pad3_ unconnected-_u6-pad7_ d_jkff
* u3 net-_u1-pad5_ net-_u3-pad2_ d_inverter
* u4 net-_u1-pad13_ net-_u4-pad2_ d_inverter
* u15 net-_u1-pad2_ net-_u15-pad2_ d_inverter
* u16 net-_u1-pad14_ net-_u16-pad2_ d_inverter
* u9 net-_u1-pad3_ net-_u12-pad3_ d_inverter
* u12 net-_u1-pad16_ net-_u1-pad16_ net-_u12-pad3_ unconnected-_u12-pad4_ net-_u1-pad11_ net-_u1-pad2_ unconnected-_u12-pad7_ d_jkff
* u2 net-_u1-pad10_ net-_u2-pad2_ d_inverter
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ unconnected-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ port
* u5 net-_u1-pad16_ net-_u1-pad16_ net-_u2-pad2_ unconnected-_u5-pad4_ net-_u1-pad11_ net-_u1-pad9_ unconnected-_u5-pad7_ d_jkff
* u8 net-_u1-pad9_ net-_u11-pad3_ d_inverter
* u11 net-_u1-pad16_ net-_u1-pad16_ net-_u11-pad3_ unconnected-_u11-pad4_ net-_u1-pad11_ net-_u1-pad7_ unconnected-_u11-pad7_ d_jkff
* u14 net-_u1-pad7_ net-_u14-pad2_ d_inverter
* u13 net-_u1-pad16_ net-_u1-pad16_ net-_u10-pad2_ unconnected-_u13-pad4_ net-_u1-pad11_ net-_u1-pad14_ unconnected-_u13-pad7_ d_jkff
* u10 net-_u1-pad12_ net-_u10-pad2_ d_inverter
* u19 net-_u1-pad16_ net-_u1-pad16_ net-_u16-pad2_ unconnected-_u19-pad4_ net-_u1-pad11_ net-_u1-pad15_ unconnected-_u19-pad7_ d_jkff
* u22 net-_u1-pad15_ net-_u22-pad2_ d_inverter
* u25 net-_u1-pad16_ net-_u1-pad16_ net-_u22-pad2_ unconnected-_u25-pad4_ net-_u1-pad11_ net-_u1-pad1_ unconnected-_u25-pad7_ d_jkff
* u17 net-_u1-pad16_ net-_u1-pad16_ net-_u14-pad2_ unconnected-_u17-pad4_ net-_u1-pad11_ net-_u1-pad6_ unconnected-_u17-pad7_ d_jkff
* u23 net-_u1-pad16_ net-_u1-pad16_ net-_u20-pad2_ unconnected-_u23-pad4_ net-_u1-pad11_ net-_u1-pad5_ unconnected-_u23-pad7_ d_jkff
* u24 net-_u1-pad16_ net-_u1-pad16_ net-_u21-pad2_ unconnected-_u24-pad4_ net-_u1-pad11_ net-_u1-pad13_ unconnected-_u24-pad7_ d_jkff
* u20 net-_u1-pad6_ net-_u20-pad2_ d_inverter
* u18 net-_u1-pad16_ net-_u1-pad16_ net-_u15-pad2_ unconnected-_u18-pad4_ net-_u1-pad11_ net-_u1-pad4_ unconnected-_u18-pad7_ d_jkff
* u21 net-_u1-pad4_ net-_u21-pad2_ d_inverter
a1 net-_u1-pad16_ net-_u1-pad16_ net-_u4-pad2_ unconnected-_u7-pad4_ net-_u1-pad11_ net-_u1-pad12_ unconnected-_u7-pad7_ u7
a2 net-_u1-pad16_ net-_u1-pad16_ net-_u3-pad2_ unconnected-_u6-pad4_ net-_u1-pad11_ net-_u1-pad3_ unconnected-_u6-pad7_ u6
a3 net-_u1-pad5_ net-_u3-pad2_ u3
a4 net-_u1-pad13_ net-_u4-pad2_ u4
a5 net-_u1-pad2_ net-_u15-pad2_ u15
a6 net-_u1-pad14_ net-_u16-pad2_ u16
a7 net-_u1-pad3_ net-_u12-pad3_ u9
a8 net-_u1-pad16_ net-_u1-pad16_ net-_u12-pad3_ unconnected-_u12-pad4_ net-_u1-pad11_ net-_u1-pad2_ unconnected-_u12-pad7_ u12
a9 net-_u1-pad10_ net-_u2-pad2_ u2
a10 net-_u1-pad16_ net-_u1-pad16_ net-_u2-pad2_ unconnected-_u5-pad4_ net-_u1-pad11_ net-_u1-pad9_ unconnected-_u5-pad7_ u5
a11 net-_u1-pad9_ net-_u11-pad3_ u8
a12 net-_u1-pad16_ net-_u1-pad16_ net-_u11-pad3_ unconnected-_u11-pad4_ net-_u1-pad11_ net-_u1-pad7_ unconnected-_u11-pad7_ u11
a13 net-_u1-pad7_ net-_u14-pad2_ u14
a14 net-_u1-pad16_ net-_u1-pad16_ net-_u10-pad2_ unconnected-_u13-pad4_ net-_u1-pad11_ net-_u1-pad14_ unconnected-_u13-pad7_ u13
a15 net-_u1-pad12_ net-_u10-pad2_ u10
a16 net-_u1-pad16_ net-_u1-pad16_ net-_u16-pad2_ unconnected-_u19-pad4_ net-_u1-pad11_ net-_u1-pad15_ unconnected-_u19-pad7_ u19
a17 net-_u1-pad15_ net-_u22-pad2_ u22
a18 net-_u1-pad16_ net-_u1-pad16_ net-_u22-pad2_ unconnected-_u25-pad4_ net-_u1-pad11_ net-_u1-pad1_ unconnected-_u25-pad7_ u25
a19 net-_u1-pad16_ net-_u1-pad16_ net-_u14-pad2_ unconnected-_u17-pad4_ net-_u1-pad11_ net-_u1-pad6_ unconnected-_u17-pad7_ u17
a20 net-_u1-pad16_ net-_u1-pad16_ net-_u20-pad2_ unconnected-_u23-pad4_ net-_u1-pad11_ net-_u1-pad5_ unconnected-_u23-pad7_ u23
a21 net-_u1-pad16_ net-_u1-pad16_ net-_u21-pad2_ unconnected-_u24-pad4_ net-_u1-pad11_ net-_u1-pad13_ unconnected-_u24-pad7_ u24
a22 net-_u1-pad6_ net-_u20-pad2_ u20
a23 net-_u1-pad16_ net-_u1-pad16_ net-_u15-pad2_ unconnected-_u18-pad4_ net-_u1-pad11_ net-_u1-pad4_ unconnected-_u18-pad7_ u18
a24 net-_u1-pad4_ net-_u21-pad2_ u21
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u7 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u6 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u12 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u5 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u11 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u13 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u19 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u25 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u17 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u23 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u24 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u18 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
